Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfonamides / Toradol
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male CAD/CABG p/w left CP sharp ___ radiates to his pacer 
and SOB x 3h PTA started with mild exertion, associated with 
sensation of decreased HR, BP and lightheadedness. Patient 
denies related diaphoresis, nausea, LOC or head trauma. Of note 
patient reports BG in 300s for past week. (+) dyspnea on 
exertion 10 ft today and has been increasing over the past 1mo. 
Patient has not been taking his medications, 70% of them, due to 
financial reasons.  
.  
Of note patient dropped hood of car on his hand 2 weeks prior 
and still has hand pain with grasping.  
.  
NTG, ASA in field. CXR cl. In ED, triage vitals Temp 99.1 HR 86 
BP 126/90 RR 16 O2 sat 100 RA, Vitals on transfer temp 98.4 HR 
66 BP 173/76 RR 15 O2 sat 100% 2LNC. no EKG changes, lungs 
clear. Patient came to ED from substance abuse rehab 
(benzodiazepine withdrawal) per report, but patient denies and 
states he has been living in assisted living. Patient with 
negative cardiac biomarkers. Cardiology consulted and 
recommended adding plavix, heparin with plan to cardiac cath vs 
stress test. Dilaudid IV for pain control in ED. Chest pain free 
at time of transfer.  
.  
Upon arrival to floor ___ CP mid-sternum, radiating to the LUQ, 
and to L shoulder, sharp, no diaphoresis/n/v. Given extensive 
history patient was started on heparin gtt.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, pulmonary embolism, myalgias, joint pains, cough, 
hemoptysis. He denies recent fevers, chills or rigors. He denies 
exertional buttock or calf pain. Pt. reports having had 
colonoscopy ___ years ago with multiple polyps removed, no 
malignancy.  
.  
ROS is positive for weight loss of ~ ___ lbs over past 6mo, no 
nightsweats, chills, cough, fevers. He has hx of black stools 
intermittently, no constipation or changes in stool character.  
.  
All of the other review of systems were negative.  
.  
*** Cardiac review of systems is notable for absence of chest 
pain, paroxysmal nocturnal dyspnea, change in chronic ankle 
edema, palpitations, syncope or presyncope. (+) 2 pillow 
orthopnea.  

 
Past Medical History:
-DM II  
-HTN  
-Diastolic dysfunction by ___ echo  
-Anti-K antibody (from multiple transfusions in past)  
-Depression / Anxiety  
-Subtotal gastrectomy at age of ___ for perforated ulcer, 
subsequent chronic Fe defficiency anemia  
-GIB in setting of stress ulcers s/p MVA  
-CAD: s/p MI ___  
--CABG X 3: LIMA TO LAD, SVG TO DIAG, SVG TO RCA (___)  
--STENT TO RCA  
--PTCA OM1 (___)  
--CATH ___: 100% RCA + 100% SVG TO RCA  
--PTCA OF OM1 RESTENOSIS (___)  
--hypercholesterolemia  
-- s/p cholecystectomy  
-- hiatal hernia  
-DVT, ___  
-COPD  
-Pancreatic Atrophy due to EtOH abuse  
-Chronic pain syndrome  
-BPH  
.
Cardiac Risk Factors: (+)Diabetes, (+)Dyslipidemia, 
(+)Hypertension  
.  
Cardiac History: CABG, in ___ anatomy as follows: LIMA TO LAD, 
SVG TO DIAG, SVG TO RCA  
.  
Percutaneous coronary intervention, in ___ anatomy as follows: 
right dominant system revealed 2 vessel CAD. The ___ had no 
angiographically apparent flow limiting epicardial coronary 
artery  
disease. The LAD had a 90% stenosis at the origin which was 
supplied by the LIMA. The LCx had a patent stent. The RCA was 
totally occluded at the origin with a distal segment which 
filled by collaterals. 2. Arterial conduit angiography revealed 
an LIMA-LAD which was patent with diffuse distal disease and a 
patent distal stent. The SVG-RCA was completely occluded.  
.  
Pacemaker placed ___.  

 
Social History:
___
Family History:
adopted, not aware of his biological family history
 
Physical Exam:
VS - 97.2F 156/86 65 100% 3L on initial exam, with 
re-examination:  
VS - 96/58 65 16 93% RA  
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pale, no cyanosis of the oral mucosa. No xanthalesma.  
Neck: Supple with JVP of 7 cm.  
CV: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4. 
 
Chest: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
Abd: Soft, NT, obese. No HSM or tenderness. No abdominial 
bruits.  
Ext: No c/c/e. Left hand: mult bruises, ttp snuff box, and 
superior to radial notch.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
Rectal: stool in vault, heme negative on guiac.
.  
Pulses:  
Right: Carotid 2+ DP 2+  
Left: Carotid 2+ DP 2+ 

 
Pertinent Results:
Labs on admission and discharge:
___ 08:10PM BLOOD WBC-2.9* RBC-4.46* Hgb-9.3* Hct-30.1* 
MCV-68* MCH-20.9*# MCHC-30.9* RDW-14.9 Plt ___
___ 09:10AM BLOOD WBC-3.4* RBC-4.60 Hgb-9.7* Hct-31.1* 
MCV-68* MCH-21.0* MCHC-31.1 RDW-14.9 Plt ___
.
___ 09:10AM BLOOD ___ PTT-66.2* ___
.
___ 08:10PM BLOOD Glucose-212* UreaN-10 Creat-0.6 Na-137 
K-4.3 Cl-100 HCO3-30 AnGap-11
___ 09:10AM BLOOD Glucose-126* UreaN-9 Creat-0.6 Na-140 
K-4.1 Cl-101 HCO3-36* AnGap-7*
.
___ 08:10PM BLOOD CK(CPK)-67
.
___ 09:10AM BLOOD ALT-17 AST-19 LD(LDH)-164 CK(CPK)-53 
AlkPhos-66 Amylase-37 TotBili-0.4
.
___ 03:10PM BLOOD CK(CPK)-49
___ 08:10PM BLOOD cTropnT-<0.01
___ 09:10AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 03:10PM BLOOD CK-MB-NotDone cTropnT-PND
.
___ 09:10AM BLOOD Ferritn-PND TRF-PND
___ 09:10AM BLOOD Iron-PND
.
___ 11:35PM URINE Color-Straw Appear-Clear Sp ___
___ 11:35PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-250 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
.
CXR on admission:
.
IMPRESSION: 
1. No significant interval change in the appearance of the 
chest. Persistent linear opacities within the right lower lobe, 
compatible with atelectasis and/or scarring, with stable small 
right pleural effusion. 
.
2. Interval placement of dual-chamber pacemaker with leads in 
satisfactory 
positions in the right atrium and right ventricle. 
 
Brief Hospital Course:
Patient is a ___ y/p M with CAD s/p CABG and multiple stents 
(last ___ at ___, Cypher (2.5x18mm) drug eluting stent) 
presenting with sudden onset CP, abdominal pain w/o significant 
EKG changes.  
.  
#. CAD (chest and abdominal pain): given extensive history 
patient was initially tx w/ heparin gtt with concern for ACS.  
Upon further history obtained after admission, and given 
relative hypotension ___ 95mmHg) and hx of GIBs and atypical 
nature of the pain (unrelieved, radiating to abdomen, no 
diaphoresis, n/v, response to morphine and dialudid), his 
heparin was discontinued.  His CEs were negative x2 (troponins < 
0.01) and his CKs remained < 67.  PE was felt to be unlikely 
given no risk factors and his ambulatory saturation was > 97%.  
It is possible that this is representation of his angina off his 
medications, thus he was restarted on his home regimen, 
including isosorbide mononitrate.  He was also continued on ASA, 
Statin, BB.  His Plavix was continued as well and a decision to 
discontinue this was deferred to primary cardiologist, Dr. 
___.  Alternatively, this may be related to his abodminal 
pain (see below).  For pain, patient received his methadone, 
20mg x1, as well as one dose of PO morphine, 20mg.  His pain 
improved signficantly.  He had no DOE with ambulation.  His PPI 
was increased to BID dosing.    
.  
# Abdominal pain. Patient w/ hx of GERD, hiatal hernia and 
gastritis in the past, not taking his medications. Also has 
chronic abd. pain due to pancreatic atrophy due to EtOH abuse 
which is likely contributing. Most likely pain is hiatal hernia 
and gastritis. No evidence of GIB currently, HCT at baseline per 
PCP ___ 34, never required transfusions. His PPI was increased to 
BID, he was continued on Sucralfate 1g QID.  His LFTs were wnl, 
as was his amylase and lipase.  His abdominal exam at time of 
discharge was benign.  Follow up with GI was arranged for him.
.  
# Anemia, microcytic, chronic. HCT remained within 30 - 31 
range.  Hx due to poor absorption s/p gastrectomy. Hx of wt. 
loss is concerning for colon cancer or another malignancy. EGD 
last year showing gastritis only. Guiac negative. Unlikely to 
have good absorption of PO Fe given sucralfate and gastrectomy. 
CXR w/o evidence of malignancy.  He will likely require 
intravenous Fe infusions, Fe studies were pending at time of 
discharge and will require follow up (discussed with PCP), 
however his ferritin in ___ was 23.  He will require age 
appropriate cancer screeening, including repeat colonoscopy for 
his weight loss.  
. 
#. Depression / Anxiety. Appeared euthymic and without suicidal 
ideation. He was continued on sertraline, trazadone, clonazepam. 
    
.  
#. Chronic pain syndrome. Abdominal source. Pain Meds confirmed 
Community Health Care ___, pt 1770. Discussed w/ PCP 
(seen patient once, Cardiology and GI) doctors. Patient w/ very 
fragmented care and has hx of drug seeking behavior.  
One dose of PO morphine while inpatient, resumed methadone.    
.  
#. HL: Restarted statin.  Lipid status currently unknown.     
.  
#. HTN: Was hypertensive on admission, however this normalized 
with restartof  lisnipril, isosorbide, in addition to BB.  Had 
transient episode of asymptomatic hypotension.    
.  
#. DM2: Continued on lantus and HISS, held neurontin given 
episode lightheadedness which can be SE, however restarted at 
time of discharge.  This lightheadedness wil require outpatient 
evaluation.    
.  
#. BPH: Continued tamsulosin.
 
Medications on Admission:
Sertraline 100 mg day  
Trazodone 150 mg qhs.  
Aspirin 81 mg daily Not taking  
Tamsulosin 0.4 mg qhs  
Atorvastatin 80 mg daily (not taking)  
Lisinopril 5 mg daily (missing from list, taking per pt)  
Clonazepam 1 mg tid prn (QID per pt)  
Sucralfate 1 gram QID not taking  
Metoprolol Tartrate 25 mg bid  
Pantoprazole 40 mg bid (only taking daily)  
Clopidogrel 75 mg daily (not taking)  
Insulin Glargine 25U QH + HISS  
Morphine 20 mg 1 tab Q6H prn pain  
Isosorbide Mononitrate 30 mg SR daily (not taking)  
Neurontin 600 mg daily  
NTG 0.4 mg prn not taking  
Zantac daily not taking  

 
Discharge Medications:
1. Sertraline 100 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).
Disp:*30 Tablet(s)* Refills:*2*
2. Trazodone 50 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).
Disp:*90 Tablet(s)* Refills:*2*
3. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
4. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).
Disp:*30 Capsule, Sust. Release 24 hr(s)* Refills:*2*
5. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*2*
6. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).
Disp:*30 Tablet(s)* Refills:*0*
8. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).
Disp:*120 Tablet(s)* Refills:*2*
9. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
11. Insulin Glargine 100 unit/mL Solution Sig: ___ (25) 
units Subcutaneous at bedtime.  
12. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO HS (at bedtime).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
13. Neurontin 600 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
14. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1)  
Sublingual once a day.
Disp:*30 tablets* Refills:*2*
15. Plavix 75 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
16. Zantac  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Atypical chest pain, abdominal pain
Secondary: CAD, Diastolic dysfunction, HL, Diabetes

 
Discharge Condition:
Stable, free of pain.

 
Discharge Instructions:
You were admitted to ___ with chest pain and abdominal pain. 
Because of your heart history, you were evaluated for a heart 
attack.  Your tests came back negative.  Your pain improved with 
restarting of your medications.  It is very important that you 
take your medications.

There were no other changes made to your medications, you were 
simply restarted on the medications you were prescribed prior. 
Please see attached list for a complete list of your 
medications.

Because you have a significant anemia (low red blood cell count) 
you will require further evaluation to ensure that you do not 
have a malignancy.  You have been made appointments with Dr. 
___ Dr. ___.

Should you have recurrent chest pain, shortness of breath, 
unusual sweating, nausea, vomiting, worsening abdominal pain, or 
any other symptom concerning to you, please call your primary 
care doctor or go to the emergency room.
 
Followup Instructions:
___